US09301951B2
(S)—N1-methyl-N1-(2-morpholinoethyl)-N3-(4-(piperidin-1-yl)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)isophthalamide
A solution of 550 mg of 2-(2-(3-(methyl(2-morpholinoethyl)carbamoyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinic acid, 142 mg of (S)-1,2,3,4-tetrahydronaphthalen-1-amine, and 497 mg of diisopropylethylamine in 6 mL of DMF was treated with 366 mg of HATU. After stirring for 2 h the product was isolated by reverse phase HPLC, eluting with 0.05% TFA in a water/acetonitrile gradient. The procedure gave 220 mg of product.

reactant | 2-(2-(3-(methyl(2-morpholinoethyl)carbamoyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinic acid | 550 mg | CN(C(=O)C=1C=C(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C=2C=C(C(=O)O)C=CN2)C=CC1)CCN1CCOCC1 | C32H37N5O5
reactant | (S)-1,2,3,4-tetrahydronaphthalen-1-amine | 142 mg | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
reactant | diisopropylethylamine | 497 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 366 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | (S)—N1-methyl-N1-(2-morpholinoethyl)-N3-(4-(piperidin-1-yl)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)isophthalamide | 220 mg | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)CCN1CCOCC1 | C42H48N6O4
